US07888376B2
To a solution of (1S,2R)-2-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)cyclohexanecarboxylic acid (11.6 mg, 0.019 mmol) and methyl 4-aminobutanoate (3.2 mg, 0.027 mmol) in CH2Cl2 (185 μL), was added EDCI (4.6 mg, 0.024 mmol) followed by DMAP (2.9 mg, 0.024 mmol) at room temperature. The reaction mixture was stirred at room temperature until starting material was consumed as indicated by HPLC analysis. The reaction mixture was concentrated to dryness and the resulting residue was taken up in MeOH and purified by preparative HPLC (Phenoma Luna AXIA 10A, C18; mobile phase: MeCN/H2O/TFA) to provide methyl 4-((1S,2R)-2-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)cyclohexanecarboxamido)butanoate as white solid (7.1 mg, 53% yield). LC/MS RT=3.200 min; [M+H] 711.1 (LCMS Method 4), NMR: 500 MHz 1H (CDCl3) 8.19 ppm, 1 H, d, J=2.20 Hz; 7.57 ppm, 1 H, dd, J=8.25, 2.20 Hz; 7.04 ppm, 6 H, m; 6.99 ppm, 2 H, t, J=7.42 Hz; 6.79 ppm, 1 H, d, J=8.25 Hz; 6.52 ppm, 2 H, d, J=7.15 Hz; 6.18 ppm, 1 H, s; 5.78 ppm, 1 H, m; 4.28 ppm, 1 H, d, J=12.65 Hz; 3.87 ppm, 1 H, s; 3.61 ppm, 3 H, m; 3.47 ppm, 2 H, m; 3.40 ppm, 1 H, m; 2.40 ppm, 5 H, m; 1.58 ppm, 9 H, m.

reactant | (1S,2R)-2-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)cyclohexanecarboxylic acid | 0.019 mmol, 11.6 mg | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(N[C@H]1[C@H](CCCC1)C(=O)O)=O | C29H27ClF5N3O4
reactant | methyl 4-aminobutanoate | 0.027 mmol, 3.2 mg | NCCCC(=O)OC | C5H11NO2
reactant | EDCI | 0.024 mmol, 4.6 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | CH2Cl2 | 185 μL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.024 mmol, 2.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | methyl 4-((1S,2R)-2-(3-((S)-1-(5-chloropyridin-2-yl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)ureido)cyclohexanecarboxamido)butanoate | 7.1 mg, 53% yield | ClC=1C=CC(=NC1)[C@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC(N[C@H]1[C@H](CCCC1)C(=O)NCCCC(=O)OC)=O | C34H36ClF5N4O5
